* C:\Users\Omistaja\Desktop\Projektit\Phaser\Phase 90.asc
V1 9V 0 9V
XVR1 N001 N001 N002 pot_alps_c Rt=470K set={rate}
R16 9V Vref 10K
C9 Vref 0 47µ
XU1 N015 N003 9V 0 N004 TL072
R4 N015 Vref 150K
R5 N002 N003 150K
XU2 N020 N005 9V 0 N005 TL072
C11 N004 N003 10n
XVR4 Vref N026 0 pot_lin Rt=100K set=.59
R3 N004 N015 470K
C1 N002 0 10µ
R1 LFO N002 4.7Meg
D1 0 Vref UMZ5_1N
R2 LFO N026 1Meg
C2 Vref LFO 47n
R6 N001 N004 2k
R11 IN 0 2.2Meg
C3 N019 IN 10n
R13 N020 N019 10K
R7 N020 Vref 2.2Meg
XU3 N021 N016 9V 0 N017 TL072
XU4 N022 N009 9V 0 N010 TL072
R12 N016 N005 10K
R14 N017 N016 10K
R15 N010 N009 10K
C4 N021 N005 47n
R17 N009 N017 10K
C6 N022 N017 47n
R18 N006 N014 150K
R10 N006 N005 150k
R22 N021 Vref 22k
R23 N022 Vref 22k
Q2 N025 N006 Vref 0 2N3906
R8 N006 N025 150K
R9 N025 0 47K
C8 Mixer N025 47n
R19 Mixer 0 150K
Q1 N007 N008 N018 0 2N3904
R21 N008 N004 10k
R20 9V N007 500
D§LFO_LED N018 0 L128-RED1003500000
V2 IN 0 wavefile = "C:\Users\Omistaja\Desktop\Projektit\Phaser\test.wav" chan=0
R§POT_200K OUT Mixer 1
XU6 N023 N011 9V 0 N012 TL072
R28 N012 N011 10K
R29 N011 N010 10K
C12 N023 N010 47n
R30 N023 Vref 22k
XU7 N024 N013 9V 0 N014 TL072
R31 N014 N013 10K
R32 N013 N012 10K
C13 N024 N012 47n
R33 N024 Vref 22k
C5 OUT 0 10n
R24 N004 LFO_square 120k
R25 LFO_square 0 10k
R27 Vref LFO_square 10k
J5 N021 LFO Vref BF256B
J1 N022 LFO Vref BF256B
J2 N023 LFO Vref BF256B
J3 N024 LFO Vref BF256B
V3 N027 0 AC 1
.model D D
.lib C:\Users\Omistaja\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Omistaja\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Omistaja\AppData\Local\LTspice\lib\cmp\standard.jft
.inc TL072.301
* .ac dec 10 1 100K
.param rate=.7
;.step param rate 0 1 0.2
.tran 8
.wave C:\Users\Omistaja\Desktop\Projektit\Phaser\output.wav 16 44.1k V(out)
* Buffer
* Phase shifter
* Mixer
* Low-pass filter
* PHASE 90\n \nADDED:\n \n- SQUAREWAVE LFO SELECT\n- FASTER LFO\n- TONE LOWPASS\n- LFO INDICATOR LED
.MODEL BF256B NJF(VTO=-2.3085 BETA=1.09045m BETATCE=-0.5 LAMBDA=2.31754E-2 RD=7.77648 RS=7.77648 CGS=2.00000p CGD=2.20000p PB=9.91494E-1 IS=2.59121E-16 XTI=3 AF=1 FC=0.5 N=1 NR=2 MFG=PHILIPS)
* Check bias on breadboard
* SPDT -> Three pin ON/ON switch
.lib pot.lib
.backanno
.end
