* C:\Users\manni\OneDrive\Työpöytä\PROJEKTIT\phaser90\Phase 90.asc
V1 9V 0 9V
XVR1 N001 N001 N002 pot_alps_c Rt=470K set={rate}
R16 9V Vref 10K
C9 Vref 0 47µ
XU1 N016 N003 9V 0 N004 TL072
R4 N016 Vref 150K
R5 N002 N003 150K
XU2 N021 N006 9V 0 N006 TL072
C11 N004 N003 10n
XVR4 Vref N027 0 pot_lin Rt=100K set=.59
R3 N004 N016 470K
C1 N002 0 10µ
R1 LFO N002 4.7Meg
D1 0 Vref UMZ5_1N
R2 LFO N027 1Meg
C2 Vref LFO 47n
R6 N001 N004 2k
R11 IN 0 2.2Meg
C3 N020 IN 10n
R13 N021 N020 10K
R7 N021 Vref 2.2Meg
XU3 N022 N017 9V 0 N018 TL072
XU4 N023 N010 9V 0 N011 TL072
R12 N017 N006 10K
R14 N018 N017 10K
R15 N011 N010 10K
C4 N022 N006 47n
R17 N010 N018 10K
C6 N023 N018 47n
R18 N007 N015 150K
R10 N007 N006 150k
R22 N022 Vref 22k
R23 N023 Vref 22k
Q2 N026 N007 Vref 0 2N3906
R8 N007 N026 150K
R9 N026 0 47K
C8 Mixer N026 47n
R19 Mixer 0 150K
Q1 N008 N009 N019 0 2N3904
R21 N009 N004 10k
R20 9V N008 500
D2 N019 0 L128-RED1003500000
V2 IN 0 wavefile = C:\Users\manni\OneDrive\Työpöytä\PROJEKTIT\phaser90\blud.wav chan=0
R26 OUT Mixer 1
XU6 N024 N012 9V 0 N013 TL072
R28 N013 N012 10K
R29 N012 N011 10K
C12 N024 N011 47n
R30 N024 Vref 22k
XU7 N025 N014 9V 0 N015 TL072
R31 N015 N014 10K
R32 N014 N013 10K
C13 N025 N013 47n
R33 N025 Vref 22k
C5 OUT 0 10n
R24 N004 N005 120k
R25 N005 0 10k
R27 Vref N005 10k
J5 N022 LFO Vref BF256B
J1 N023 LFO Vref BF256B
J2 N024 LFO Vref BF256B
J3 N025 LFO Vref BF256B
V3 N028 0 AC 1
.model D D
.lib C:\Users\manni\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\manni\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\manni\AppData\Local\LTspice\lib\cmp\standard.jft
.inc TL072.301
* Phase 90
* .ac dec 10 1 100K
.param rate=.5
;.step param rate 0 1 0.2
;.noise V(OUT) V2 dec 100 1 100000
;.measure noise NOISERMS integ V(onoise) from 10 to 20000
* Plot V(onoise)\n \nPress CTRL+L to see the result for total RMS noise
.tran 12
.wave C:\Users\manni\OneDrive\Työpöytä\PROJEKTIT\phaser90\testi.wav 16 44.1k V(out)
* Buffer
* Phase shifter
* Mixer
* Low-pass filter
* ADDED:\n \nTREMOLO-STYLE EFFECT SELECT\nFASTER LFO\nTONE LOWPASS\nINDICATOR LED
.MODEL BF256B NJF(VTO=-2.3085 BETA=1.09045m BETATCE=-0.5 LAMBDA=2.31754E-2 RD=7.77648 RS=7.77648 CGS=2.00000p CGD=2.20000p PB=9.91494E-1 IS=2.59121E-16 XTI=3 AF=1 FC=0.5 N=1 NR=2 MFG=PHILIPS)
.lib pot.lib
.backanno
.end
